US06864396B2
Preparation of 1,2,3,4,10,11,12,13-Octahydroheptacene
To a mixture of 35.3 grams of 2,5-bis(5,6,7,8-tetrahydronaphthalen-2-ylmethyl)terephthalic acid and 4,6-bis(5,6,7,8-tetrahydronaphthalen-2-ylmethyl)isophthalic acid was added 120 grams of trifluoromethanesulfonic acid. The resulting mixture was stirred at room temperature for one hour followed by heating to 60° C. for six hours. The mixture was poured over 500 grams of ice. The resulting solid was isolated by filtration and washed with 500 mL of saturated aqueous sodium bicarbonate solution and then 4 L of water until the filtrate was neutral to pH paper. The solid was dried to give a mixture of 1,2,3,4,8,10,11,12,13,17-decahydroheptacen-6,15-dione and 1,2,3,4,10,11,12,13-octahydroheptacen-6,8(15H,17H)-dione

reactant | 2,5-bis(5,6,7,8-tetrahydronaphthalen-2-ylmethyl)terephthalic acid | 35.3 grams | C1=C(C=CC=2CCCCC12)CC1=C(C(=O)O)C=C(C(=C1)C(=O)O)CC1=CC=2CCCCC2C=C1 | C30H30O4
reactant | 4,6-bis(5,6,7,8-tetrahydronaphthalen-2-ylmethyl)isophthalic acid | C1=C(C=CC=2CCCCC12)CC1=C(C=C(C(=O)O)C(=C1)CC1=CC=2CCCCC2C=C1)C(=O)O | C30H30O4
reactant | trifluoromethanesulfonic acid | 120 grams | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 1,2,3,4,8,10,11,12,13,17-decahydroheptacen-6,15-dione | C1CCCC2=CC=3C(C4=CC=5CC6=CC=7CCCCC7C=C6C(C5C=C4CC3C=C12)=O)=O | C30H26O2
reactant | 1,2,3,4,10,11,12,13-octahydroheptacen-6,8(15H,17H)-dione | C1CCCC2=CC=3C(C4=CC=5C(C6=CC=7CCCCC7C=C6CC5C=C4CC3C=C12)=O)=O | C30H26O2
product | 1,2,3,4,10,11,12,13-Octahydroheptacene | C1CCCC2=CC3=CC4=CC5=CC6=CC=7CCCCC7C=C6C=C5C=C4C=C3C=C12 | C30H26
